US06831193B2
3-(methylsulfanyl)benzaldehyde
2-(3-Bromophenyl)-1,3-dioxolane and dimethyl disulfide were processed as described in Example 71A to provide the title compound.

reactant | 2-(3-Bromophenyl)-1,3-dioxolane | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | dimethyl disulfide | CSSC | C2H6S2
product | 3-(methylsulfanyl)benzaldehyde | CSC=1C=C(C=O)C=CC1 | C8H8OS
